### PR TITLE
add a lemma to yoneda

### PR DESCRIPTION
**Pull request by benediktahrens**

### CODE REVIEW

File: UniMath/CategoryTheory/yoneda.v [hunk 1]
```diff
@@ -238,38 +241,45 @@ Proof.
...
 
+Lemma isweq_yoneda_map_1 (C : precategory) (hs: has_homsets C) (c : C)
+   (F : functor C^op HSET) :
+  isweq
+     (*a := hSetpair (hom _ ((yoneda C) hs c) F) (isaset_nat_trans_yoneda C hs c F)*)
+     (*b := F c*)
+     (yoneda_map_1 C hs c F).
+Proof.
+  set (T:=yoneda_map_2 C hs c F). simpl in T.
+  refine (gradth _ _ _ _ ).
```
Comment (andrejbauer) [inline UniMath/CategoryTheory/yoneda.v]: Out of curiosity, is it known how often `gradth` actually does anything?

Comment (DanGrayson) [inline UniMath/CategoryTheory/yoneda.v]: For equivalence between sets, as here, it's not really needed, because the extra adjointness
relation comes for free.  Often one can avoid its use between general types, i.e., sometimes the
maps you propose satisfy the adjointness easily, but in general, it's tricky.  In particular, it's tricky 
to get the adjointness for the homotopies between fgf and f from the adjointness between gfg and g,
hence the need for gradth in making the inverse of an equivalence.

Comment (vladimirias) [inline UniMath/CategoryTheory/yoneda.v]: What do you mean by “does anything”?

Comment (andrejbauer) [inline UniMath/CategoryTheory/yoneda.v]: I meant what you answered: how often are the original maps already adjoint?
